US05593993
2-Formyl-3-fluoropyridine
Dry ethyl ether (500 mL), n-BuLi (1.6M in hexane, 62.5 mL, 0.1 mol), and dry 1,4-diazabicyclo[2.2.2]octane (DABCO) (11.56 g, 0.1 mol) were introduced into a 1 L flask under a dry N2 stream at -60° C. and the resulting cloudy solution was stirred for 1 hour at -20° C. The mixture was then cooled to -75° C. and an ethyl ether (50 mL) solution of 3-fluoropyridine (9.81 g, 0.1 mol) was added dropwise and stirring continued for 11/2 hours at -60° C. The mixture was recooled to -75° C., dry N,N-dimethylformamide (8.52 mL, 0.11 mol) dissolved in ethyl ether (50 mL) was added dropwise and the mixture stirred for 2 hours at -75° C. Water (175 mL) was introduced slowly at -10° C., the aqueous layer extracted with ethyl acetate (5×200 mL), and the combined extracts were dried over anhydrous sodium sulfate. Solvent removal produced a dark brown oil which after vacuum distillation and purification by chromatography on silica gel provided 4.4 g (35%) of the titled product as an off-white crystalline solid:

reactant | n-BuLi | 0.1 mol, 1.6M, 62.5 mL | [Li]CCCC
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.1 mol, 11.56 g | N12CCN(CC1)CC2 | C6H12N2
reactant | 3-fluoropyridine | 0.1 mol, 9.81 g | FC=1C=NC=CC1 | C5H4FN
reactant | N,N-dimethylformamide | 0.11 mol, 8.52 mL | CN(C=O)C | C3H7NO
solvent | ethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | Water | 175 mL | O | H2O
product | 2-Formyl-3-fluoropyridine | 4.4 g, 35% | C(=O)C1=NC=CC=C1F | C6H4FNO
